US04259324
Triphenylmethyl chloride (122 g, 0.44 mol) is added to a solution of but-3-yne-1-ol (25 g, 0.36 mol) in dichloromethane (400 ml) containing pyridine (50 ml) and stirred overnight at room temperature. The reaction mixture is filtered and washed with cold dilute hydrochloric acid, aqueous sodium bicarbonate and water. The dried solution is concentrated to a solid which is crystallized from ether-petroleum ether to give 4-triphenylmethyloxybut-1-yne (60 g), m.p. 97°-99° (ether-petroleum ether).

reactant | Triphenylmethyl chloride | 0.44 mol, 122 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | but-3-yne-1-ol | 0.36 mol, 25 g | C(CC#C)O | C4H6O
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 4-triphenylmethyloxybut-1-yne | 60 g | C1(=CC=CC=C1)C(OCCC#C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20O
